US06518423B1
Sodium(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methanesulfonate
To a solution of 900 mg of 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine in a mixture of water (8 ml)/methanol (4 ml) was added 0.8 g of sodium sulfite and the resulting mixture was heated to 90° C. for 2 hours. Then the reaction mixture was brought back to room temperature and diluted with ethanol. After filtering off the inorganic salt, silica gel was added to the filtrate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol/acetic acid) to thereby give 650 mg of the title compound as yellow crystals.

reactant | 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 900 mg | ClCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H12ClN3OS
reactant | methanol | 4 ml | CO | CH4O
reactant | sodium sulfite | 0.8 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 8 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Sodium(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methanesulfonate | 650 mg | COCN1C2=C(SC3=C1C=C(C=C3)CS(=O)(=O)[O-])N=CC=N2.[Na+] | InChI=1S/C13H13N3O4S2.Na/c1-20-8-16-10-6-9(7-22(17,18)19)2-3-11(10)21-13-12(16)14-4-5-15-13;/h2-6H,7-8H2,1H3,(H,17,18,19);/q;+1/p-1
